US04252984
13 g (0.058 mol) of p-(2-cyclobutylmethylthioethyl)-phenol suspended in 80 ml of water are introduced into an Erlenmeyer flask placed under nitrogen. The temperature is kept below 20° C. and 2.72 g (0.068 mol) of sodium hydroxide pellets are added. The solution becomes homogeneous. It is stirred for about 30 minutes and 11.92 g (0.087 mol) of epibromohydrin are then added dropwise at ambient temperature. The batch is stirred at ambient temperature for about 4 hours. The solution becomes cloudy. The oily phase is extracted with ether and the ether phase is washed with 2 N sodium hydroxide solution and then with water. The ether is dried over magnesium sulphate and then evaporated. The residue is distilled on a bulb still at a temperature of 160° C. under a pressure of 0.04 mm Hg. 6.2 g (yield: 38.8%) of 1-[4-(2-cyclobutylmethylthio-ethyl)-phenoxy]-2,3-epoxy-propane are obtained, and this material is used directly.

reactant | p-(2-cyclobutylmethylthioethyl)-phenol | 0.058 mol, 13 g | C1(CCC1)CSCCC1=CC=C(C=C1)O | C13H18OS
reactant | sodium hydroxide | 0.068 mol, 2.72 g | [OH-].[Na+]
reactant | epibromohydrin | 0.087 mol, 11.92 g | C(Br)C1CO1 | C3H5BrO
solvent | water | 80 ml | O | H2O
product | 1-[4-(2-cyclobutylmethylthio-ethyl)-phenoxy]-2,3-epoxy-propane | 6.2 g, yield: 38.8% | C1(CCC1)CSCCC1=CC=C(OCC2CO2)C=C1 | C16H22O2S
